Pro24D
*SPICE Netlist generated by Advanced Sim server on 03/11/2005 14:16:07

*Schematic Netlist:
V1KHz VIN 0 DC 0 SIN(0 1 1KHz 0 0 0) AC 1 0
XE1 VIN 0 VOUT 0 EVALUE
R1 0 VOUT 1K

.SAVE 0 VIN VOUT V1KHz#branch @V1KHz[z] @R1[i] @R1[p] @V1KHz[p]

*PLOT TRAN -1 1 A=VIN

*Selected Circuit Analyses:
.TRAN 2E-5 0.005 0 2E-5

*Models and Subcircuit:
.SUBCKT EVALUE 1 2 3 4
E1 3 4 VALUE {2*sin(V(1, 2))}
.ENDS EVALUE

.END
